US08293923B2
Step 6: Ethyl 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate
A mixture of ethyl 2-amino-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate (102 mg, 0.000244 mol), 5-bromo-3-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole (130 mg, 0.00029 mol), 1,4-dioxane (0.6 mL, 0.007 mol), potassium phosphate (78 mg, 0.00037 mol), xantphos (34 mg, 0.000059 mol) and tris(dibenzylideneacetone)dipalladium(0) (20 mg, 0.00002 mol) was placed in a microwave reaction vessel. The reaction mixture was stirred under nitrogen and the sides were washed down with additional 1,4-dioxane (0.5 mL). The reaction vessel was irradiated under microwave radiation for 60 minutes at 130° C. The reaction mixture was diluted with ethyl acetate and washed with aqueous saturated sodium bicarbonate and then brine. The organic phase was dried over sodium sulfate and concentrated to a brown residue which was purified by combiflash chromatography on a 40 g silica gel cartridge using an initial eluent of 10% ethyl acetate-90% hexanes for 5 minutes then a gradient to 30% ethyl acetate over the next 15 minutes. Concentration of the product fractions gave a yellow oil (99.1 mg).

reactant | ethyl 2-amino-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate | 0.000244 mol, 102 mg | NC1=NC2=C(N1[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)C=CC(=C2)C(=O)OCC | C22H35N3O3Si
reactant | 5-bromo-3-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole | 0.00029 mol, 130 mg | BrC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)I | C13H18BrIN2OSi
reactant | 1,4-dioxane | 0.007 mol, 0.6 mL | O1CCOCC1 | C4H8O2
reactant | potassium phosphate | 0.00037 mol, 78 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | xantphos | 0.000059 mol, 34 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00002 mol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 2-(5-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-3-ylamino)-1-(trans-4-(tert-butyldimethylsilyloxy)cyclohexyl)-1H-benzo[d]imidazole-5-carboxylate | 99.1 mg | BrC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)NC1=NC2=C(N1[C@@H]1CC[C@H](CC1)O[Si](C)(C)C(C)(C)C)C=CC(=C2)C(=O)OCC | C35H52BrN5O4Si2
